US07018997B2
Step 2: Preparation of Benzo[4,5]imidazo[2,1-b]thiazole-6-carbaldehyde
To a round bottomed flask was loaded 1.16 grams of (3,4-Dihydro-2H-1-thia-4a,9-diaza-fluoren-6-yl)-methanol, 25 grams of manganese dioxide and 250 ml chloroform. The mixture was stirred for one hour at room temperature and then filtered through a pad of celite. This yielded 0.42 grams of product (42%). MS: 203.0 (M+H). H-NMR(CDCl3): δ 10.10(ss, 1H), 8.24(ss, 1H), 7.85 (m, 3H), 6.96 (m, 1H).

reactant | (3,4-Dihydro-2H-1-thia-4a,9-diaza-fluoren-6-yl)-methanol | 1.16 grams | S1CCCN2C3=CC(=CC=C3N=C12)CO | C11H12N2OS
catalyst | manganese dioxide | 25 grams | [O-2].[O-2].[Mn+4]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | Benzo[4,5]imidazo[2,1-b]thiazole-6-carbaldehyde | S1C=2N(C=C1)C1=C(N2)C=CC(=C1)C=O | C10H6N2OS
